US08975256B2
7-(4-Hydroxy-2-methoxyphenyl)-8-[N-(2-methoxyphenyl)-N-(9-fluorenylmethoxycarbonyl)aminomethyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 13-1)
7-(2-Methoxy-4-methoxymethoxyphenyl)-8-[N-(2-methoxyphenyl)-N-(9-fluorenylmethoxycarbonyl)aminomethyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 12-1, 137 mg, 0.192 mmol) was dissolved in 1,4-dioxane (1 mL) and 4N hydrochloride/1,4-dioxane solution (144 μL, 0.576 mmol) was added thereto. After the reaction mixture was stirred at room temperature for 2 hours, the mixture was diluted with ethyl acetate (100 mL). The mixture was washed with water (100 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (71.6 mg) as a colorless solid. (Yield 56%)

reactant | 7-(2-Methoxy-4-methoxymethoxyphenyl)-8-[N-(2-methoxyphenyl)-N-(9-fluorenylmethoxycarbonyl)aminomethyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | COC1=C(C=CC(=C1)OCOC)C1=CC=C2NC(C(N(C2=C1CN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C1=C(C=CC=C1)OC)C)=O)(C)C | C43H43N3O7
reactant | hydrochloride 1,4-dioxane | 0.576 mmol, 4N, 144 μL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-(4-Hydroxy-2-methoxyphenyl)-8-[N-(2-methoxyphenyl)-N-(9-fluorenylmethoxycarbonyl)aminomethyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 71.6 mg, Yield 56% | OC1=CC(=C(C=C1)C1=CC=C2NC(C(N(C2=C1CN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C1=C(C=CC=C1)OC)C)=O)(C)C)OC | C41H39N3O6
